US07423030B2
20.1. 5-methoxy-2-(methoxyacetyl)benzoic acid
This compound is synthesized according to the method described in 3.2. by reacting 2-bromo-5-methoxybenzoic acid pretreated with n-butyllithium with 2,N-dimethoxy-N-methylacetamide. It is used in crude form in the following reaction.

reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,N-dimethoxy-N-methylacetamide | COCC(=O)N(C)OC | C5H11NO3
product | 5-methoxy-2-(methoxyacetyl)benzoic acid | COC=1C=CC(=C(C(=O)O)C1)C(COC)=O | C11H12O5
